US05686445
6-[4-[(2,4-Dichlorobenzoyl)amino]benzoyl]-5,6-dihydropyrazolo[4,3-d][1]benzazepine-2(4H)-acetic acid
To a stirred slurry of 0.477 g of 6-[4-[(2,4-dichlorobenzoyl)amino]benzoyl]-5,6-dihydropyrazolo-[4,3-d][1]benzazepine-2(4H)-acetic acid, ethyl ester in 15 ml of ethyl alcohol is added 5 ml of tetrahydrofuran followed by 1.30 ml of 1M NaOH. The reaction mixture is stirred at room temperature for 6 hours followed by the addition of 0.750 ml of 2M HCl. The acidic reaction mixture is evaporated in vacuo, triturated with CHCl3, combined, treated with activated carbon, filtered through MgSO4 and evaporated an yacuo to give 0.380 mg of the desired product as a clear foam.

reactant | 6-[4-[(2,4-dichlorobenzoyl)amino]benzoyl]-5,6-dihydropyrazolo-[4,3-d][1]benzazepine-2(4H)-acetic acid, ethyl ester | 0.477 g | ClC1=C(C(=O)NC2=CC=C(C(=O)N3CCC=4C(C5=C3C=CC=C5)=NN(C4)CC(=O)OCC)C=C2)C=CC(=C1)Cl | C29H24Cl2N4O4
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
reactant | NaOH | 1M, 1.30 ml | [OH-].[Na+]
reactant | HCl | 2M, 0.750 ml | Cl | ClH
solvent | ethyl alcohol | 15 ml | C(C)O | C2H6O
product | 6-[4-[(2,4-Dichlorobenzoyl)amino]benzoyl]-5,6-dihydropyrazolo[4,3-d][1]benzazepine-2(4H)-acetic acid | 0.380 mg | ClC1=C(C(=O)NC2=CC=C(C(=O)N3CCC=4C(C5=C3C=CC=C5)=NN(C4)CC(=O)O)C=C2)C=CC(=C1)Cl | C27H20Cl2N4O4
